US07491794B2
Synthesis of (1S,4R,6S,14S,18R)-14-tert-butoxycarbonylamino-18-[(3,4-dihydro-1H-isoquinoline-2-carbonyl)-amino]-2,15-dioxo-3,16-diaza-tricyclo[14.3.0.04,6]nonadec-7-ene-4-carboxylic acid (Compound AR00287262)
A solution of 3,4-dihydro-1H-isoquinoline-2-carbonyl chloride (0.030 g, 0.152 mmol), (1S,4R,6S,14S,18R)-18-amino-14-tert-butoxycarbonylamino-2,15-dioxo-3,16-diaza-tricyclo[14.3.0.04,6]nonadec-7-ene-4-carboxylic acid ethyl ester (0.025 g, 0.050 mmol), DIEA (0.027 ml, 0.153 mmol) and a catalytic amount of DMAP were stirred together in methylene chloride (0.3 ml) for 18 h. The reaction was placed onto silica gel and the product eluted with 40% acetone/hexanes and isolated as a white solid. The solid was dissolved in methanol and treated with lithium hydroxide (0.011 g, 0.254 mmol) and 1 drop of water. After stirring for 5 h, the reaction was diluted with methylene chloride (30 ml), washed with 1N aqueous HCl (30 ml), brine (30 ml), dried over magnesium sulfate and concentrated to give the title compound as a white solid. LCMS=624 (MH+).

reactant | 3,4-dihydro-1H-isoquinoline-2-carbonyl chloride | 0.152 mmol, 0.030 g | C1N(CCC2=CC=CC=C12)C(=O)Cl | C10H10ClNO
reactant | (1S,4R,6S,14S,18R)-18-amino-14-tert-butoxycarbonylamino-2,15-dioxo-3,16-diaza-tricyclo[14.3.0.04,6]nonadec-7-ene-4-carboxylic acid ethyl ester | 0.050 mmol, 0.025 g | C(C)OC(=O)[C@@]12NC([C@@H]3C[C@H](CN3C([C@H](CCCCCC=C[C@@H]2C1)NC(=O)OC(C)(C)C)=O)N)=O | C25H40N4O6
reactant | DIEA | 0.153 mmol, 0.027 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | lithium hydroxide | 0.254 mmol, 0.011 g | [OH-].[Li+]
catalyst | DMAP | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | methylene chloride | 0.3 ml | C(Cl)Cl | CH2Cl2
solvent | methanol | CO | CH4O
catalyst | water | 1 drop | O | H2O
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
product | (1S,4R,6S,14S,18R)-14-tert-butoxycarbonylamino-18-[(3,4-dihydro-1H-isoquinoline-2-carbonyl)-amino]-2,15-dioxo-3,16-diaza-tricyclo[14.3.0.04,6]nonadec-7-ene-4-carboxylic acid | C(C)(C)(C)OC(=O)N[C@H]1CCCCCC=C[C@@H]2C[C@]2(NC([C@@H]2C[C@H](CN2C1=O)NC(=O)N1CC2=CC=CC=C2CC1)=O)C(=O)O | C33H45N5O7
